US09290496B2
Step 2: Preparation of (S)-3-methoxy-1-(1-methylpyrrolidin-3-yl)-1H-pyrazol-4-amine
A nitrogen-flushed round bottom flask was charged with (S)-3-methoxy-1-(1-methylpyrrolidin-3-yl)-4-nitro-1H-pyrazole (300 mg, 1.33 mmol, 1.00 eq), 10% Pd/C (200 mg) and methanol (20 mL). The reaction mixture was sparged with hydrogen for 10 min then stirred vigorously under hydrogen atmosphere for 16 hr. The reaction mixture was then sparged with nitrogen, filtered through Celite®, and concentrated to give an oil that was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.99 (s, 1H), 4.51 (tdd, J=4.8, 7.3, 9.3 Hz, 1H), 3.74 (s, 3H), 3.36 (br. s., 2H), 2.71-2.61 (m, 2H), 2.57 (dd, J=4.8, 9.5 Hz, 1H), 2.40 (dt, J=6.5, 8.3 Hz, 1H), 2.25 (s, 3H), 2.23-2.14 (m, 1H), 1.94-1.84 (m, 1H). m/z (APCI+) for C9H17N4O 197.3 (M+H)+.

reactant | (S)-3-methoxy-1-(1-methylpyrrolidin-3-yl)-4-nitro-1H-pyrazole | 1.33 mmol, 300 mg, 1.00 eq | COC1=NN(C=C1[N+](=O)[O-])[C@@H]1CN(CC1)C | C9H14N4O3
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | (S)-3-methoxy-1-(1-methylpyrrolidin-3-yl)-1H-pyrazol-4-amine | COC1=NN(C=C1N)[C@@H]1CN(CC1)C | C9H16N4O
